US04616026
1. 2,4-Difluorobenzaldehyde
2,4-Difluorobromobenzene (18.5 g) was added to dry diethyl ether (150 ml), cooled to -75° C. and n-butyllithium (61 5 ml of a 1.55 molar solution in hexane) was added under dry nitrogen over a period of 45 minutes. The mixture was stirred at -70° C. for a further 20 minutes and dry dimethylformamide (7.65 g) was added in dry diethyl ether (30 ml) at -70° C. over a period of 30 minutes. The mixture was stirred for 40 minutes and allowed to warm to -50° C. over a further 15 minutes. A solution of ammonium chloride (30 g) in water (100 ml) was added and the ether layer separated. The aqueous layer was further extracted with diethyl ether (2×50 ml) and the combined ethereal extracts were dried and evaporated to yield a pale yellow oil which was distilled at the water pump to give the desired product (13.0 g) b.p. 52°-55° C. at 14 mm Hg.

reactant | 2,4-Difluorobromobenzene | 18.5 g | FC1=C(C=CC(=C1)F)Br | C6H3BrF2
reactant | n-butyllithium | C(CCC)[Li]
reactant | dimethylformamide | 7.65 g | CN(C=O)C | C3H7NO
reactant | ammonium chloride | 30 g | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | water | 100 ml | O | H2O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 2,4-Difluorobenzaldehyde | 13.0 g | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
